US06147216
Step c: (S)-4-[4-[4-(Hydroxydiphenylmethyl)-1-piperidinyl]-1-hydroxybutyl]-α,α-dimethylbenzeneacetic Acid, Ethyl Ester
Dissolve (-)-B-chlorodiisopinocamphenylborane (2.5 g, 7.8 mmol) in anhydrous tetrahydrofuran (5 mL). Add a solution of 4-[4-[4-(hydroxydiphenylmethyl)-1-piperidinyl]-1-oxobutyl]-α,α-dimethylbenzeneacetic acid, methyl ester (3.54 mmol) in anhydrous tetrahydrofuran (5 mL). Stir at room temperature for 3 days and cool to 0° C. Add water (1 mL) and 30% hydrogen peroxide (2 mL) and stir for 20 minutes. Add methylene chloride (30 mL) and wash with brine (30 mL), then aqueous sodium hydrogen carbonate (30 mL), then brine (30 mL). Dry (MgSO4), evaporate the solvent in vacuo and purify by chromatography to give the title compound.

reactant | (-)-B-chlorodiisopinocamphenylborane | 7.8 mmol, 2.5 g | B([C@@H]1C[C@@H]2C[C@H]([C@H]1C)C2(C)C)([C@@H]3C[C@@H]4C[C@@H]([C@H]3C)C4(C)C)Cl | C20H34BCl
reactant | 4-[4-[4-(hydroxydiphenylmethyl)-1-piperidinyl]-1-oxobutyl]-α,α-dimethylbenzeneacetic acid, methyl ester | 3.54 mmol | OC(C1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)C(C(=O)OC)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H39NO4
reactant | water | 1 mL | O | H2O
reactant | hydrogen peroxide | 2 mL | OO | H2O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (S)-4-[4-[4-(Hydroxydiphenylmethyl)-1-piperidinyl]-1-hydroxybutyl]-α,α-dimethylbenzeneacetic Acid, Ethyl Ester | OC(C1CCN(CC1)CCC[C@H](O)C1=CC=C(C=C1)C(C(=O)OCC)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H43NO4
